US07176322B2
6-Methoxycarbazole-3-carboxylic acid ethyl ester
A solution of 6-methoxy-1,2,3,4-tetrahydrocarbazole-3-carboxylic acid ethyl ester (3.29 g, 12.1 mmol) in p-cymene (12 mL) was treated with palladium (10% on carbon, 2.25 g) and heated at 190° C. for 20 hours. The mixture was then cooled, diluted with dichloromethane and filtered over a pad of diatomaceous earth. The filtrate was concentrated in vacuo to a low volume and heptane (200 mL) was added to precipitate the title compound as a white solid (2.78 g).

reactant | 6-methoxy-1,2,3,4-tetrahydrocarbazole-3-carboxylic acid ethyl ester | 12.1 mmol, 3.29 g | C(C)OC(=O)C1CCC=2NC3=CC=C(C=C3C2C1)OC | C16H19NO3
solvent | p-cymene | 12 mL | CC=1C=CC(=CC1)C(C)C | C10H14
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | palladium | 2.25 g | [Pd] | Pd
product | 6-Methoxycarbazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=CC=2NC3=CC=C(C=C3C2C1)OC | C16H15NO3
